US07875618B2
3,4-Dimethyl-1-(2-methylphenyl)imidazo[1,5-a]quinoxaline was synthesized in a manner similar to 1-(2,5-dichlorophenyl)-8-fluoro-3,4-dimethyl-imidazo[1,5-a]quinoxaline starting with 2-fluoro-4-chloronitrobenzene. A white solid was recovered (0.07 g) 62% yield. MS (ES) m/z 288.1 [M+1]+

reactant | 1-(2,5-dichlorophenyl)-8-fluoro-3,4-dimethyl-imidazo[1,5-a]quinoxaline | ClC1=C(C=C(C=C1)Cl)C1=NC(=C2N1C1=CC(=CC=C1N=C2C)F)C | C18H12Cl2FN3
reactant | 2-fluoro-4-chloronitrobenzene | FC1=C(C=CC(=C1)Cl)[N+](=O)[O-] | C6H3ClFNO2
product | 3,4-Dimethyl-1-(2-methylphenyl)imidazo[1,5-a]quinoxaline | 62% yield | CC=1N=C(N2C1C(=NC1=CC=CC=C21)C)C2=C(C=CC=C2)C | C19H17N3
